US05112988
A solution of 1,1-bis(3-chlorophenyl)-2-methoxyethanol (47 g) (obtained by the reaction of 3-chlorophenylmagnesium bromide with methyl 2-methoxyacetate in THF) in formic acid (44 cc) is heated to reflux for 5 hours, cooled and poured into a mixture of saturated sodium carbonate solution (500 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×250 cc) and with saturated sodium chloride solution (200 cc), then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis(3-chlorophenyl)acetaldehyde (36.9 g) in the form of a yellow oil.

reactant | 3-chlorophenylmagnesium bromide | ClC=1C=C(C=CC1)[Mg]Br
reactant | methyl 2-methoxyacetate | COCC(=O)OC | C4H8O3
solvent | THF | C1CCOC1 | C4H8O
solvent | formic acid | 44 cc | C(=O)O | CH2O2
product | 1,1-bis(3-chlorophenyl)-2-methoxyethanol | 47 g | ClC=1C=C(C=CC1)C(COC)(O)C1=CC(=CC=C1)Cl | C15H14Cl2O2
